US06949648B2
4-Chloro-6,7-difluoro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
A solution of 4,5-difluoro-2-[[1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid (7.00 g, 22.1 mmol) in phosphorous oxychloride (10.3 mL, 111 mmol) was heated under reflux for 1 hour. The solution was allowed to cool to room temperature, and poured into iced water. After neutralization by addition of a sodium hydroxide solution, the organic matter was extracted with chloroform. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform) to give the title compound (3.99 g, 57% yield).

reactant | 4,5-difluoro-2-[[1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 22.1 mmol, 7.00 g | FC1=CC(=C(C(=O)O)C=C1F)NC1=CC=NN1C1=NC=CC=C1 | C15H10F2N4O2
reactant | phosphorous oxychloride | 111 mmol, 10.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Chloro-6,7-difluoro-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 3.99 g, 57% yield | ClC1=C2C(=NC3=CC(=C(C=C13)F)F)N(N=C2)C2=NC=CC=C2 | C15H7ClF2N4
